US03953500
To 100 ml. of acetic acid is added 6.6 g. of 5-benzyl-1,2,3,4-tetrahydro-1-naphthamide and, under cooling with ice, 3.4 g. of chromic anhydride is added. The mixture is stirred well. After stirring overnight, the reaction mixture is poured over 500 g. of ice and the resultant crystals are collected by filtration. This is subjected to column chromtography on silica gel using chloroform as the eluent and the eluate is recrystallized from cyclohexane. The procedure gives 5-benzoyl-1,2,3,4-tetrahydro-1-naphthamide, melting point: 145.5°-147.5°C.

reactant | 5-benzyl-1,2,3,4-tetrahydro-1-naphthamide | C(C1=CC=CC=C1)C1=C2CCCC(C2=CC=C1)C(=O)N | C18H19NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 5-benzoyl-1,2,3,4-tetrahydro-1-naphthamide | C(C1=CC=CC=C1)(=O)C1=C2CCCC(C2=CC=C1)C(=O)N | C18H17NO2
